US06649627B1
4-Hydroxy-3-methylcarbonyl-1-(2,3-epoxypropoxy) Benzene
A solution containing 3.00 g (0.020 mole) of 2,5-dihydroxyacetophenone, 3.37 ml (0.040 mole) of epibromhydrine and 5.06 g (0.040 mole) of K2CO3 in 30 ml of acetone are heated for 8 hours under reflux. The solvent is evaporated off, 20 ml of a saturated solution of NaH2PO4 and 120 ml of water are added, and an extraction carried out with ethyl acetate.

reactant | 2,5-dihydroxyacetophenone | 0.020 mole, 3.00 g | CC(=O)C1=C(C=CC(=C1)O)O | C8H8O3
reactant | epibromhydrine | 0.040 mole, 3.37 ml | C(Br)C1CO1 | C3H5BrO
reactant | K2CO3 | 0.040 mole, 5.06 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 4-Hydroxy-3-methylcarbonyl-1-(2,3-epoxypropoxy) Benzene | OC1=C(C=C(C=C1)OCC1CO1)C(=O)C | C11H12O4
